US07138420B2
To a solution of N-(4-fluoro-3-nitro-phenyl)-benzamide (1.60 g, 6.15 mmol) in anhydrous DMF was added iodomethane (3.49 g, 24.60 mmol, 1.53 ml) under argon. 60% Sodium hydride (0.37 g, 9.23 mmol) was then added portionwise to the cooled solution (0° C.) and the reaction mixture was then stirred at room temperature for 24 h. The solution was poured slowly into water and the aqueous layer was extracted 3× with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The residue was purified by flash chromatography, eluting with hexane/ethyl acetate (4:1) to give N-(4-fluoro-3-nitro-phenyl)-N-methyl-benzamide. (1.47 g, 87%)

reactant | N-(4-fluoro-3-nitro-phenyl)-benzamide | 6.15 mmol, 1.60 g | FC1=C(C=C(C=C1)NC(C1=CC=CC=C1)=O)[N+](=O)[O-] | C13H9FN2O3
reactant | iodomethane | 24.60 mmol, 1.53 ml, 3.49 g | IC | CH3I
reactant | Sodium hydride | 9.23 mmol, 0.37 g | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-fluoro-3-nitro-phenyl)-N-methyl-benzamide | FC1=C(C=C(C=C1)N(C(C1=CC=CC=C1)=O)C)[N+](=O)[O-] | C14H11FN2O3
